US08278473B2
A solution of 2.0 g (10.4 mmol) of methyl 3-methoxy-2-phenyl-2-propenoate 1.26 g (11.4 mmol) of thiophenol and 10 mg of p-toluenesulfonic acid monohydrate in 28 ml of toluene was stirred at 90° C. for 9 hours. The reaction mixture was cooled to room temperature and then concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain 1.75 g of methyl 2-phenyl-3-(phenylthio)-2-propenoate.

reactant | methyl 3-methoxy-2-phenyl-2-propenoate | 10.4 mmol, 2.0 g | COC=C(C(=O)OC)C1=CC=CC=C1 | C11H12O3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | p-toluenesulfonic acid monohydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 28 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-phenyl-3-(phenylthio)-2-propenoate | 1.75 g | C1(=CC=CC=C1)C(C(=O)OC)=CSC1=CC=CC=C1 | C16H14O2S
